US07795247B2
Step 2: methyl 2-[2-(aminomethyl)phenyl]-3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-1H-indole-6-carboxylate
Platinum (IV) oxide (20 mol %) was added as a slurry in AcOH under N2 to a solution of methyl 3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-2-{2-[(hydroxyimino)methyl]phenyl}-1H-indole-6-carboxylate in AcOH (0.07 M). The atmosphere in the reaction vessel was charged with H2 at 50 psi pressure and the reaction agitated on a Parr apparatus for 48 h. The reaction was then filtered under N2 through a plug of celite, washing well with AcOH, and the filtered solution concentrated in vacuo to afford the title compound (100%); MS (ES+) m/z 449 (M+H)+.

reactant | methyl 3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-2-{2-[(hydroxyimino)methyl]phenyl}-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC1OCCO1)C1=C(C=CC=C1)C=NO | C27H30N2O5
solvent | AcOH | CC(=O)O | C2H4O2
solvent | AcOH | 0.07 M | CC(=O)O | C2H4O2
catalyst | Platinum (IV) oxide | [Pt](=O)=O
product | methyl 2-[2-(aminomethyl)phenyl]-3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-1H-indole-6-carboxylate | 100% | NCC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC1OCCO1 | C27H32N2O4
